OpenCircuit independent review hard-bound probe
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8603099024539480064
* Revision: Version 1.1
.model OC_HL_50N06 VDMOS( VTO=2.5000000000e0 KP=2.3255813953e2 THETA=0.0000000000e0 LAMBDA=3.0000000000e-3 RD=4.7300000000e-3 RS=1.7200000000e-3 RG=1.0000000000e-4 RDS=1e9 CGS=2.2950000000e-9 CGDMAX=1.1600000000e-10 CGDMIN=1.1600000000e-10 CJO=8.0000000000e-12 IS=1.0000000000e-12 N=1.5000000000e0 RB=1.7200000000e-3)
.temp 25
M1 d g 0 OC_HL_50N06
ID 0 d DC 5.0
VG g 0 DC 4.5
.op
.end
