OpenCircuit independent review hard-bound probe
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8564879672011362305
* Revision: Rev1.0
.model OC_HONGJIACHENG_1SMA4737A D(IS=4.1235422377e-15 N=1.8000000000e0 RS=1.0000000000e-4 BV=7.5000000000e0 IBV=3.4000000000e-2 NBV=1.0000000000e0)
.temp 25
IZ 0 cathode DC 3.400000000000e-2
Ddut 0 cathode OC_HONGJIACHENG_1SMA4737A
Vall all 0 DC 0
.op
.end
